US06599902B2
Synthesis of 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-[4-(4-hydroxy-piperidin-1-ylmethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
A mixture of 5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one (150 mg, 0.42 mmol), 4-(4-hydroxy-piperidin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde (99 mg, 1 eq.) and piperidine (0.5 eq.) in ethanol (2 mL) was stirred at rt for days. The reaction was concentrated and the residue was purified on a silica gel column to give the titled compound as a pale greenish-brown solid.

reactant | 5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 0.42 mmol, 150 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 4-(4-hydroxy-piperidin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 99 mg, 1 eq. | OC1CCN(CC1)CC=1C(=C(NC1C)C=O)C | C13H20N2O2
reactant | piperidine | 0.5 eq. | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-[4-(4-hydroxy-piperidin-1-ylmethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)CN1CCC(CC1)O)C | C28H29Cl2N3O4S
